US06319695B1
Initial velocities of the enzyme reaction were determined by measuring the rate of LacNAc formation with a slight modification of the assay by Pierce et al. [Pierce et al., Anal. Biochem., 102:441 (1980)]. All the reactions were carried out in 100 mM cacodylate buffer (pH 7.5) with fixed concentrations of Mn2+ (9.3 mM) and UDP-Gal (0.1 mM; 58.5 cpm/pmol of UDP-14C-Gal) in 100 mL of solution. The reaction was initiated by the addition of GalT (0.05 U, 120 mg protein; from Sigma) and permitted to stand at 20° C. for 30 minutes. Nonspecific hydrolysis of UDP-Gal was measured by the control reaction in the absence of GalT. The reaction was stopped by passing through a column of QAE-Sephadex (700 mL), and eluted by gentle air pressure to remove the unreacted UDP-Gal. The reaction vial was rinsed twice with 400 mL of water each and passed through the resin column. The filtrates were collected and directly transferred into a scintillation vial. The scintillation fluid was added to the vial, and then radioactivity was counted by a liquid scintillation counter. The data were analyzed by a double reciprocal plot to obtain Km (1.5 mM for GlcNAc) [a value of 1.3±1 mM was reported in Palcic et al., Carbohydr. Res., 159:315 (1987)] and Ki (0.46±0.06 mM) for UDP. Similarly, IC50 value of UDP for GalT was determined using different concentration of UDP.

reactant | LacNAc | CC(=O)N[C@@H]1[C@H]([C@@H]([C@H](OC1O)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O)O)O)O | C14H25NO11
reactant | UDP-Gal | 0.1 mM | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
solvent | cacodylate | 100 mM, pH 7.5 | [As]([O-])(=O)(C)C
product | GlcNAc | OC1[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
